US06603005B2
A mixture of 10 g of 2,6-difluorophenol, 40.5 cm3 of 1,2-dibromoethane and 15.3 g of potassium carbonate in 300 cm3 of acetonitrile was heated for 18 hours at a temperature in the region of 75° C., with stirring and under an inert atmosphere. After cooling to a temperature in the region of 20° C., the reaction mixture was filtered and washed with 3 times 30 cm3 of acetonitrile. The filtrate was concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue obtained was taken up in 200 cm3 of petroleum ether (40-65° C.), filtered and washed with 3 times 30 cm3 of petroleum ether (40-65° C.). The filtrate was concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue obtained was purified by chromatography under atmospheric pressure, on a column of silica gel (particle size 20-45μ; diameter 7 cm; height: 28 cm), eluting with petroleum ether (40-65° C.) and collecting 100-cm3 fractions. Fractions 22 to 58 were combined and then concentrated to dryness under the above conditions. 14.5 g of 1-(2-bromoethoxy)-2,6-difluorobenzene were obtained in the form of a thick colorless oil.

reactant | 2,6-difluorophenol | 10 g | FC1=C(C(=CC=C1)F)O | C6H4F2O
reactant | 1,2-dibromoethane | 40.5 cm3 | BrCCBr | C2H4Br2
reactant | potassium carbonate | 15.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 300 cm3 | C(C)#N | C2H3N
product | 1-(2-bromoethoxy)-2,6-difluorobenzene | 14.5 g | BrCCOC1=C(C=CC=C1F)F | C8H7BrF2O
